US07485732B2
Step 3 3-((4-chlorophenyl){3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidin-1-yl}methyl)benzonitrile
A mixture of 263 mg (0.86 mmol) of 3-[bromo(4-chlorophenyl)methyl]benzonitrile, 213 mg (0.574 mmol) of 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidine and 300 uL (1.72 mmol) of N,N-diisopropylethylamine in 6 mL of acetonitrile was heated to reflux for 3 h. Then the solution was concentrated and the residue was dissolved in 5 mL of hexane/ether. 1.5 mL of 1N HCl in ether was added to above solution to make salt. It was filtered and washed with hexane/ether. The residue was neutralized with base and was purified by silica gel chromatography with hexanes/ethyl acetate to afford one racemic diastereomer of the title compound; Mass Spectrum: m/e=465 (M+1 35Cl) and 467 (M+1 37Cl).

reactant | 3-[bromo(4-chlorophenyl)methyl]benzonitrile | 0.86 mmol, 263 mg | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H9BrClN
reactant | 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidine | 0.574 mmol, 213 mg | FC=1C=C(C=C(C1)F)C(C(C)(C)C)C1CNC1 | C14H19F2N
reactant | N,N-diisopropylethylamine | 1.72 mmol, 300 uL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 3-((4-chlorophenyl){3-[1-(3,5-difluorophenyl)-2,2-dimethylpropyl]azetidin-1-yl}methyl)benzonitrile | ClC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)N1CC(C1)C(C(C)(C)C)C1=CC(=CC(=C1)F)F | C28H27ClF2N2
